US03931179
A mixture of 2.0 g. of 6-amino-3,4-ethylenedioxybenzoic acid methyl ester and 6 ml. of 99% formamide is refluxed for 1.5 hours, then cooled, diluted with 5 ml. of water and the resulting precipitate filtered off, water washed and dried to obtain 6,7-ethylenedioxyquinazolin-4(3H)-one, m.p. 275°C.

reactant | 6-amino-3,4-ethylenedioxybenzoic acid methyl ester | COC(C1=CC2=C(C=C1N)OCCO2)=O | C10H11NO4
reactant | formamide | C(=O)N | CH3NO
product | 6,7-ethylenedioxyquinazolin-4(3H)-one | C1OC=2C=C3C(NC=NC3=CC2OC1)=O | C10H8N2O3
